US07786108B2
Step 3. Preparation of (S)-(2-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-yl}-ethoxy)-acetic acid
To a solution of (S)-2-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-yl}-ethanol (0.17 mmol) in tetrahydrofuran (5 mL), add potassium hydride (0.67 mmol) at room temperature. After stirring for 30 minutes add bromoacetic acid (0.25 mmol) as a solution in tetrahydrofuran (1 mL). After stirring an additional 0.5 h, quench the reaction with wet tetrahydrofuran (2 mL), dilute with water (1 mL), and ethyl acetate (5 mL). Neutralize the reaction with 5M HCl, separate the organic phase, and wash the aqueous with ethyl acetate (2×5 mL). Dry the combined organic phases over sodium sulfate, filter, and remove solvent under vacuum. Chromatograph the product over silica gel, eluting with methanol/dichloromethane (0.5-4%) to afford the title compound as a colorless foam. MS (ES+): 655 (M+H).

reactant | (S)-2-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-yl}-ethanol | 0.17 mmol | FC(C=1C=C(CN([C@@H]2C3=C(N(CCC2)CCO)C=C(C(=C3)C)C(F)(F)F)C=3N=NN(N3)C)C=C(C1)C(F)(F)F)(F)F | C25H25F9N6O
reactant | potassium hydride | 0.67 mmol | [H-].[K+]
reactant | bromoacetic acid | 0.25 mmol | BrCC(=O)O | C2H3BrO2
reactant | HCl | 5M | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | water | 1 mL | O | H2O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | (S)-(2-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-yl}-ethoxy)-acetic acid | FC(C=1C=C(CN([C@@H]2C3=C(N(CCC2)CCOCC(=O)O)C=C(C(=C3)C)C(F)(F)F)C=3N=NN(N3)C)C=C(C1)C(F)(F)F)(F)F | C27H27F9N6O3
